US04082751
Preparation 42-2: Ethyl 1,6-Dihydro-6-oxo-2-(2-ethylthiophenyl)-pyrimidine-5-carboxylate
2-Ethylthiobenzamidine hydrochloride (2.12 g., 10.0 mmoles) was added to a cooled (ice-water) solution of sodium (0.46 g., 20 mg.-atoms) in ethanol (12 ml.). To this mixture was added a solution of diethyl ethoxymethylenemalonate (2.16 g., 10.0 mmoles) in ethanol (4 ml.). The mixture was heated under reflux for 3.5 hours. The cooled mixture was poured into ice-water (400 ml.) and acidified to pH 6 with glacial acetic acid. The precipitate was collected and recrystallized from acetonitrile to give the title compound (2.04 g., 64.6%), m.p. 117°-120°.

reactant | 2-Ethylthiobenzamidine hydrochloride | 10.0 mmoles, 2.12 g | Cl.C(C)SC1=C(C(=N)N)C=CC=C1
reactant | sodium | 0.46 g | [Na] | Na
reactant | diethyl ethoxymethylenemalonate | 10.0 mmoles, 2.16 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Ethyl 1,6-Dihydro-6-oxo-2-(2-ethylthiophenyl)-pyrimidine-5-carboxylate | 2.04 g, 64.6% | O=C1C(=CN=C(N1)C1=C(C=CC=C1)SCC)C(=O)OCC | C15H16N2O3S
